US05183925
A solution of 60 mg of 4-[2-[(1E,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid ethyl ester in 0.5 ml of pyridine is mixed with ice cooling and under argon atmosphere with 0.12 ml of acetic anhydride and stirred for 4 hours at room temperature. The reaction mixture is concentrated by evaporation and the residue is chromatographed on silica gel with n-hexane/ethyl acetate=95/5. 42 mg of 4-[2-[(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl]-phenoxy]-butyric acid ethyl ester is obtained as a colorless oil.

reactant | 4-[2-[(1E,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid ethyl ester | 60 mg | C(C)OC(CCCOC1=C(C=CC=C1)\C=C\C=C\C(CCCCCCCC)O)=O | C25H38O4
reactant | acetic anhydride | 0.12 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 4-[2-[(1E,3E)-(5RS)-5-acetoxy-1,3-tridecadienyl]-phenoxy]-butyric acid ethyl ester | 42 mg | C(C)OC(CCCOC1=C(C=CC=C1)\C=C\C=C\C(CCCCCCCC)OC(C)=O)=O | C27H40O5
